US07687491B2
(2d) Ethyl 1-({5-[5-(4-cyclohexylphenyl)-1,2,4-oxadiazol-3-yl]-2-furyl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1f) using {5-[5-(4-cyclohexylphenyl)-1,2,4-oxadiazol-3-yl]-2-furyl}methanol (0.18 g, 0.55 mmol) that was obtained in Example 2 (2c), carbon tetrabromide (0.22 g, 0.67 mmol), triphenylphosphine (0.18 g, 0.67 mmol), ethyl 3-azetidinecarboxylate hydrochloride (0.14 g, 0.83 mmol) and N,N-diisopropylethylamine (0.30 ml, 1.7 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:1 to 2:1) as the eluent to afford the title compound (0.23 g) in a yield of 96% as a white crystalline solid.

reactant | {5-[5-(4-cyclohexylphenyl)-1,2,4-oxadiazol-3-yl]-2-furyl}methanol | 0.55 mmol, 0.18 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(O1)CO | C19H20N2O3
reactant | carbon tetrabromide | 0.67 mmol, 0.22 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.67 mmol, 0.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 3-azetidinecarboxylate hydrochloride | 0.83 mmol, 0.14 g | Cl.N1CC(C1)C(=O)OCC
reactant | N,N-diisopropylethylamine | 1.7 mmol, 0.30 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Ethyl 1-({5-[5-(4-cyclohexylphenyl)-1,2,4-oxadiazol-3-yl]-2-furyl}methyl)azetidine-3-carboxylate | C1(CCCCC1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(O1)CN1CC(C1)C(=O)OCC | C25H29N3O4
